US07825155B2
cis-1-diethylamino-3-hydroxycyclobutane
Cis-1-diethylamino-3-hydroxycyclobutane hydrochloride (100 mg, 0.557 mmol) was dissolved in methanol (3.0 ml), and thereto was added 1N aqueous sodium hydroxide solution (0.560 mL, 0.560 mmol). The mixture was evaporated, and thereto were added ethyl acetate and tetrahydrofuran, and the mixture was dried over sodium sulfate, and filtered. The filtrate was evaporated to give the titled compound (71.7 mg).

reactant | Cis-1-diethylamino-3-hydroxycyclobutane hydrochloride | 0.557 mmol, 100 mg | Cl.C(C)N([C@@H]1C[C@@H](C1)O)CC
reactant | sodium hydroxide | 0.560 mmol, 1N, 0.560 mL | [OH-].[Na+]
solvent | methanol | 3.0 ml | CO | CH4O
product | cis-1-diethylamino-3-hydroxycyclobutane | 71.7 mg | C(C)N([C@@H]1C[C@@H](C1)O)CC | C8H17NO
